US06589984B1
An aqueous solution (30 ml) of LiOH-hydrate (465 mg) was added to a solution of 4-acetyloxy-6-(benzofuran-2-yl)-3,5-dimethyl-2H-pyran-2-one (3.00 g) in MeOH (100 ml) at 0° C., and after stirring at room temperature for 2 hours, the MeOH was distilled off under reduced pressure. The residue was rinsed with Et2O, and then a KHSO4 aqueous solution was added at 0° C. for adjustment to pH 2.0. The precipitated crystals were filtered off and thoroughly rinsed with water and Et2O in that order and then dried to obtain 6-(benzofuran-2-yl)-3,5-dimethyl-4-hydroxy-2H-pyran-2-one.

reactant | LiOH-hydrate | 30 ml, 465 mg | O[Li].O
reactant | 4-acetyloxy-6-(benzofuran-2-yl)-3,5-dimethyl-2H-pyran-2-one | 3.00 g | C(C)(=O)OC1=C(C(OC(=C1C)C=1OC2=C(C1)C=CC=C2)=O)C | C17H14O5
solvent | MeOH | 100 ml | CO | CH4O
product | 6-(benzofuran-2-yl)-3,5-dimethyl-4-hydroxy-2H-pyran-2-one | O1C(=CC2=C1C=CC=C2)C2=C(C(=C(C(O2)=O)C)O)C | C15H12O4
